US07232827B2
14.2 9-(6,7-Dihydro-5H-[1]pyrindin-6-(R)-ylmethyl)-8-methyl-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
To a solution of 0.15 g (0.62 mmol) of 8-methyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one in 3 ml of anhydrous dimethylformamide was added 0.032 g (0.81 mmol) of sodium hydride (60% suspension in mineral oil). The mixture was allowed to stir at 50° C. for 30 min. 0.184 g (0.81 mmol) of methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-(R)-ylmethyl ester was added and the stirring continued at 85° C. for 18 h. Water was added and the mixture extracted with trichloromethane/methanol 90/10. The extracts were washed with a saturated aqueous solution of sodium chloride, dried and evaporated to give crude product. Purification by chromatography on silica gel, eluting with a mixture of ethylacetate/ethanol in the proportions 100/0 to 74/26, gives 0.14 g (60%) of the compound in the form of free base.

reactant | 8-methyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.62 mmol, 0.15 g | CC1NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1 | C13H14N4O
reactant | sodium hydride | 0.81 mmol, 0.032 g | [H-].[Na+]
reactant | methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-(R)-ylmethyl ester | 0.81 mmol, 0.184 g | N1=CC=CC=2C[C@H](CC12)COS(=O)(=O)C | C10H13NO3S
reactant | Water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 9-(6,7-Dihydro-5H-[1]pyrindin-6-(R)-ylmethyl)-8-methyl-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.14 g, 60% | N1=CC=CC=2C[C@H](CC12)CN1C(CCN2C1=NC(=CC2=O)C2=CC=NC=C2)C | C22H23N5O
